US05578620
3-(5-phenylpentyloxy)-2-hydroxypropylamine
A procedure similar to that described in Preparation 13 was repeated, except that 4.5 g of 3-(5-phenylpentyloxy)-2-hydroxypropylazide (prepared as described in Preparation 50), 1.3 g of lithium aluminum hydride and 250 ml of anhydrous tetrahydrofuran were used, to give 4.3 g of the title compound as a pale yellow oil having an Rf value of 0.09 (on silica gel thin layer chromatography, using a 10:2:1 by volume mixture of ethyl acetate, ethanol and triethylamine as the developing solvent).

reactant | 3-(5-phenylpentyloxy)-2-hydroxypropylazide | 4.5 g | C1(=CC=CC=C1)CCCCCOCC(CN=[N+]=[N-])O | C14H21N3O2
reactant | lithium aluminum hydride | 1.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 3-(5-phenylpentyloxy)-2-hydroxypropylamine | 4.3 g | C1(=CC=CC=C1)CCCCCOCC(CN)O | C14H23NO2
